US05108486
Following procedures similar to those employed in Step A of Example 2, the reaction of 2.1 g (0.0095 mole) of (2-ethyl-2-methyl-1,3-benzodioxol-5-yl) isothiocyanate with 0.44 g (0.0095 mole) of methylhydrazine in 50 ml of ethanol yielded 1.7 g of 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-2-methyl-3-thiosemicarbazide as a solid. The nmr spectrum was consistent with the proposed structure.

reactant | (2-ethyl-2-methyl-1,3-benzodioxol-5-yl) isothiocyanate | 0.0095 mole, 2.1 g | C(C)C1(OC2=C(O1)C=CC(=C2)N=C=S)C | C11H11NO2S
reactant | methylhydrazine | 0.0095 mole, 0.44 g | CNN | CH6N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-2-methyl-3-thiosemicarbazide | 1.7 g | C(C)C1(OC2=C(O1)C=CC(=C2)NC(N(N)C)=S)C | C12H17N3O2S
